US09403798B2
tert-Butyl (S)-4-(4-fluorophenyl)-5-(pivaloyloxy)-5,6-dihydropyridine-1(2H)-carboxylate
To a toluene solution (40 mL) of tert-butyl (3R,4R)-4-(4-fluorophenyl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate (2.04 g, 5.16 mmol) synthesized in Reference Synthesis Example 135, methyl N-(triethylammoniosulfonyl)carbamate (1.72 g, 7.22 mmol) was added and the resultant mixture was stirred at 60° C. for 3 hours. After completion of the reaction, ethyl acetate was added to the reaction solution and the resultant mixture was washed with each of saturated sodium bicarbonate aqueous solution and saturated sodium chloride aqueous solution. The obtained organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1→3/1) to obtain the title compound (1.82 g, yield 93%).

reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl (3R,4R)-4-(4-fluorophenyl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate | 5.16 mmol, 2.04 g | FC1=CC=C(C=C1)[C@]1([C@@H](CN(CC1)C(=O)OC(C)(C)C)OC(C(C)(C)C)=O)O | C21H30FNO5
reactant | methyl N-(triethylammoniosulfonyl)carbamate | 7.22 mmol, 1.72 g | C(C)[N+](S(=O)(=O)NC(OC)=O)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (S)-4-(4-fluorophenyl)-5-(pivaloyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 1.82 g, yield 93% | FC1=CC=C(C=C1)C1=CCN(C[C@H]1OC(C(C)(C)C)=O)C(=O)OC(C)(C)C | C21H28FNO4
